US08008322B2
To a solution of 110 mg of di-tert-butyl (3-cyano-4-iodopyrid-2-yl)-hydrazinedicarboxylate and 122 mg of 1-(2-fluoro-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea in 5.5 mL of dioxane are added 57 mg of NaHCO3 in 1.7 mL of water. 26 mg of tetrakis(triphenylphosphine)palladium are then added and the reaction is refluxed at 100° C. After 2 hours 30 minutes, the pale yellow solution is cooled to 20° C. and 10 mL of ethyl acetate are added. The organic phase is washed twice with 8 mL of water and then with 8 mL of brine. After drying over magnesium sulfate and concentrating under reduced pressure, the residual yellow oil is purified on a prepacked Biotage KP-Sil column of 60 Å SiO2 32-63 μm (9/1 cyclohexane/ethyl acetate). 114 mg of di-tert-butyl (3-cyano-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}pyrid-2-yl)hydrazinedicarboxylate are obtained.

reactant | di-tert-butyl (3-cyano-4-iodopyrid-2-yl)-hydrazinedicarboxylate | 110 mg | C(#N)C=1C(=NC=CC1I)NN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H21IN4O4
reactant | 1-(2-fluoro-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 122 mg | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H21BF4N2O3
reactant | NaHCO3 | 57 mg | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 5.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.7 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | di-tert-butyl (3-cyano-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}pyrid-2-yl)hydrazinedicarboxylate | 114 mg | C(#N)C=1C(=NC=CC1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F)NN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H30F4N6O5
